US07572805B2
Part A. Methyl 2-chloro-5-(trifluoromethyl)benzoate
To a solution of 2-chloro-5-(trifluoromethyl)benzoic acid (15 g, 66.8 mmol) in methylene chloride (200 mL) was added oxalyl chloride (12.7 g, 100 mmol) drop wise followed by the addition of 5-6 drops of DMF. The reaction mixture was concentrated, the residue partitioned between methylene chloride and 5% aq. sodium carbonate. The organic layer was dried (MgSO4) and concentrated to give the title compound as a pale oil (16 g).

reactant | 2-chloro-5-(trifluoromethyl)benzoic acid | 66.8 mmol, 15 g | ClC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | oxalyl chloride | 100 mmol, 12.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5-6 drops | CN(C)C=O | C3H7NO
product | Methyl 2-chloro-5-(trifluoromethyl)benzoate | 16 g | ClC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C9H6ClF3O2
